US07125901B2
Ethyl {4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}carbamate (140 mg) and 4N HCl in 1,4-dioxane solution (3 ml) were combined under N2 atmosphere. The reaction mixture was stirred at r.t. for 2 hours. The solvent was removed in vacuo. The residue was dissolved in water and AcOEt. The mixture was made basic (pH=8) by 1N-NaOH. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo to give ethyl {4-[2-(4-aminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}carbamate (125.6 mg) as an off-white amorphous substance.

reactant | Ethyl {4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}carbamate | 140 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(OCC)=O | C27H33N3O6S2
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | ethyl {4-[2-(4-aminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}carbamate | 125.6 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(OCC)=O | C22H25N3O4S2
